US08080688B2
4-(5,6,7,8-Tetrahydro-2-naphthoxy)-2,5-dimethylaniline
A solution of 15.00 g (46.9 mmol) of 4-(5,6,7,8-tetrahydro-2-naphthoxy)-2,5-dimethylnitrobenzene in 60 ml of methanol is admixed first of all with 31.8 g (140.7 mmol) of tin(II) chloride dihydrate at room temperature and then slowly, with ice cooling, with 60 ml of concentrated hydrochloric acid. The reaction mixture is refluxed for 2 h, cooled to room temperature, concentrated and admixed with water and the residue is isolated by filtration and dried under reduced pressure (15.3 g, 86% purity, 99.5% yield, log P (pH 2.3)=3.08).

reactant | 4-(5,6,7,8-tetrahydro-2-naphthoxy)-2,5-dimethylnitrobenzene | 46.9 mmol, 15.00 g | C1=C(C=CC=2CCCCC12)OC1=CC(=C(C=C1C)[N+](=O)[O-])C | C18H19NO3
reactant | tin(II) chloride dihydrate | 140.7 mmol, 31.8 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 60 ml | Cl | ClH
solvent | methanol | 60 ml | CO | CH4O
product | 4-(5,6,7,8-Tetrahydro-2-naphthoxy)-2,5-dimethylaniline | 99.5% yield | C1=C(C=CC=2CCCCC12)OC1=CC(=C(N)C=C1C)C | C18H21NO
